US08048902B2
Step 3: 5-(4-Bromo-phenyl)-3-methyl-isoxazole-4-carboxylic acid methyl ester
To a mixture of 2-(4-bromo-benzoyl)-3-oxo-butyric acid methyl ester (11 g, 39 mmol) in acetic acid (50 mL) was added hydroxylamine hydrochloride (2.66 g, 39 mmol), and the reaction was stirred at 115° C. for 1 hours. After cooling, saturated aqueous NaHCO3 was added to the mixture to adjust to pH 8. The solution was extracted with EtOAc, and the combined organic layers were washed with brine, dried, filtered, and concentrated to give the title compound.

reactant | 2-(4-bromo-benzoyl)-3-oxo-butyric acid methyl ester | 39 mmol, 11 g | COC(C(C(C)=O)C(C1=CC=C(C=C1)Br)=O)=O | C12H11BrO4
reactant | hydroxylamine hydrochloride | 39 mmol, 2.66 g | Cl.NO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 5-(4-Bromo-phenyl)-3-methyl-isoxazole-4-carboxylic acid methyl ester | COC(=O)C=1C(=NOC1C1=CC=C(C=C1)Br)C | C12H10BrNO3
